US04302458
(a) 2-methyl-6,7-dimethoxy-1[4,5,6-triethoxy-7-nitro-3-phthalidyl]-1,2,3,4-tetrahydro-isoquinoline
200 g (0.6 mole) of 2-methyl-6,7-dimethoxy-3,4-dihydro-isoquinolinium iodide (prepared in the same manner as the compound of Example A) 186 g of 4,5,6-triethoxy-7-nitrophthalide and 100 g of potassium carbonate are added to 1.5 l of methanol while stirring. The reaction mixture is stirred for 24 hours at a temperature below the boiling point of the solvent, and is then allowed to cool; 900 ml of water is added and the reaction solution is allowed to crystallise. The solution is filtered, rinsed with methanol, and then with water.

reactant | 2-methyl-6,7-dimethoxy-3,4-dihydro-isoquinolinium iodide | 0.6 mole, 200 g | [I-].C[N+]1=CC2=CC(=C(C=C2CC1)OC)OC
reactant | 4,5,6-triethoxy-7-nitrophthalide | 186 g | C(C)OC1=C2COC(=O)C2=C(C(=C1OCC)OCC)[N+](=O)[O-] | C14H17NO7
reactant | potassium carbonate | 100 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 1.5 l | CO | CH4O
solvent | water | 900 ml | O | H2O
product | 2-methyl-6,7-dimethoxy-1[4,5,6-triethoxy-7-nitro-3-phthalidyl]-1,2,3,4-tetrahydro-isoquinoline | CN1C(C2=CC(=C(C=C2CC1)OC)OC)C1OC(=O)C2=C(C(=C(C(=C12)OCC)OCC)OCC)[N+](=O)[O-] | C26H32N2O9
